US08383644B2
(S)-6,7-Dihydroxy-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid
(S)-2-Amino-3-(3,4-dihydroxy-phenyl)-propionic acid (90 g) was suspended in 0.8 L water, then 18.2 mL concentrated sulfuric acid in 0.5 L additional water was added with stirring. Formaldehyde solution (136 mL, 37 wt %) was then added while stirring and the mixture was stirred 18 hours at rt. It was quenched by addition of 24.4 g NaOH in 0.5 L water, dropwise over 1 h while cooling. The resulting mixture was stored overnight at 4° C., and the solid that formed was collected by filtration, washed with hot water (70° C.), cooled again and collected by filtration. The solid was treated with 0.5 L MeOH and evaporated, then stored under vacuum overnight to give 65 g desired product. 1H NMR (400 MHz, MeOH-d4): 6.64 (s, 1H), 6.59 (s, 1H), 4.29-4.21 (m, 3H), 3.29-3.21 (m, 1H), 3.11-3.01 (m, 1H).

reactant | (S)-2-Amino-3-(3,4-dihydroxy-phenyl)-propionic acid | 90 g | N[C@H](C(=O)O)CC1=CC(=C(C=C1)O)O | C9H11NO4
reactant | sulfuric acid | 18.2 mL | S(O)(O)(=O)=O | H2O4S
reactant | Formaldehyde | 136 mL | C=O | CH2O
solvent | water | 0.8 L | O | H2O
solvent | water | 0.5 L | O | H2O
product | (S)-6,7-Dihydroxy-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid | 65 g | OC=1C=C2C[C@H](NCC2=CC1O)C(=O)O | C10H11NO4
